US07846929B2
To a mixture of (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-methanol (500 mg) and triethylamine (0.5 mL) in dichloromethane (20 mL) at 0° C. was added methanesulfonyl chloride (0.27 mL). The reaction mixture was stirred at room temperature for 16 h and then quenched with water (20 mL) and extracted into dichloromethane (2×20 mL). The combined organics were washed with aqueous brine solution (2×20 mL), dried (MgSO4) and concentrated to give methanesulfonic acid 2-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl ester as a yellow solid (523 mg).

reactant | (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-methanol | 500 mg | ClC=1N=C(C2=C(N1)C=C(S2)CO)N2CCOCC2 | C11H12ClN3O2S
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.27 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | methanesulfonic acid 2-methyl-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl ester | 523 mg | CC=1N=C(C2=C(N1)C=C(S2)COS(=O)(=O)C)N2CCOCC2 | C13H17N3O4S2
